US09428502B2
Compound 294.1. (E)-3-(Dimethylamino)-1-(tetrahydro-2H-pyran-4-yl)prop-2-en-1-one
To a sealed tube were added 1-(tetrahydro-2H-pyran-4-yl)ethanone (3.00 g, 23.4 mmol) and DMF-DMA (6.2 mL, 46.8 mmol). The reaction mixture was heated at 100° C. overnight. The resulting mixture was concentrated under reduced pressure to afford 4.00 g (crude) of the title compound as light yellow oil.

reactant | 1-(tetrahydro-2H-pyran-4-yl)ethanone | 23.4 mmol, 3.00 g | O1CCC(CC1)C(C)=O | C7H12O2
reactant | DMF-DMA | 46.8 mmol, 6.2 mL | CN(C)C(OC)OC | C5H13NO2
product | (E)-3-(Dimethylamino)-1-(tetrahydro-2H-pyran-4-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1CCOCC1)C | C10H17NO2
